US04186019
(a) 2-phenylsulfonylaminopyridine
A solution of 264 g of benzene sulphochloride was added dropwise at 10° to 25° C. to a solution of 282 g of 2-aminopyridine in 1200 ml of tetrahydrofuran. After two hours continuous stirring without further cooling, the mixture was poured into water. The reaction product was suction filtered and washed first with water and then with methanol.

reactant | benzene sulphochloride | 264 g | S(=O)(=O)(O)Cl.C1=CC=CC=C1
reactant | 2-aminopyridine | 282 g | NC1=NC=CC=C1 | C5H6N2
reactant | water | O | H2O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
product | 2-phenylsulfonylaminopyridine | C1(=CC=CC=C1)S(=O)(=O)NC1=NC=CC=C1 | C11H10N2O2S
